US06498169B1
Synthesis of 4-[N-Phenyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride
4-Anilino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (1.64 g) and 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (1.64 g) were reacted in the same manner as described in Preparation Example 9. The title compound was obtained after converting the product to a trihydrochloride.

reactant | 4-Anilino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 1.64 g | N(C1=CC=CC=C1)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C26H31N3O3
reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 1.64 g | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-Phenyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride | Cl.Cl.Cl.C1(=CC=CC=C1)N(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C41H46N4O6.3ClH/c1-46-36-22-30(23-37(47-2)40(36)50-5)34-20-28(12-16-42-34)26-44-18-14-33(15-19-44)45(32-10-8-7-9-11-32)27-29-13-17-43-35(21-29)31-24-38(48-3)41(51-6)39(25-31)49-4;;;/h7-13,16-17,20-25,33H,14-15,18-19,26-27H2,1-6H3;3*1H
